US08247377B2
Intermediate 39: 2,6-Bis(difluoromethyl)benzoic acid
To a solution of methyl 2,6-bis(difluoromethyl)benzoate (205 mg) in methanol (3 ml) was added a solution of lithium hydroxide (48 mg) in methanol (3 ml). It was stirred at 21° C. and the initial oily suspension slowly cleared over ca. 2 hours but insoluble material remained. It was stirred for a total of 20 hours and then evaporated to dryness. It was partitioned between ethyl acetate (10 ml) and water (10 ml), washed with ether (10 ml), acidified with 2M hydrochloric acid and extracted with ethyl acetate (2×10 ml). This was washed with water (10 ml) and saturated brine (10 ml), dried over sodium sulphate and evaporated to give the title compound (146 mg).

reactant | methyl 2,6-bis(difluoromethyl)benzoate | 205 mg | FC(C1=C(C(=O)OC)C(=CC=C1)C(F)F)F | C10H8F4O2
reactant | lithium hydroxide | 48 mg | [OH-].[Li+]
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | 2,6-Bis(difluoromethyl)benzoic acid | 146 mg | FC(C1=C(C(=O)O)C(=CC=C1)C(F)F)F | C9H6F4O2
